US05308840
Synthesis of 2-acryloylamino-4-methylphenol (1)
To a solution of 2-amino-4-methylphenol (5 g, 40.6 mmol) and pyridine (5 ml, 62 mmol) in methylene chloride (70 ml) was added dropwise a solution of acryloyl chloride (4 ml, 50 mmol) in methylene chloride (30 ml) under ice-cooling. The reaction mixture was stirred at 0° C. for 2 hours. To the reaction mixture was added water, and the mixture was stirred at room temperature for 30 minutes, extracted with methylene chloride, washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off, and thus obtained brown oil was purified by column chromatography on silica gel to give a pale yellow prismatic crystals. Yield 1.55 g (22%).

reactant | 2-amino-4-methylphenol | 40.6 mmol, 5 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | pyridine | 62 mmol, 5 ml | N1=CC=CC=C1 | C5H5N
reactant | acryloyl chloride | 50 mmol, 4 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-acryloylamino-4-methylphenol | C(C=C)(=O)NC1=C(C=CC(=C1)C)O | C10H11NO2
